US07157487B2
Methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate (1.0 g, 5.02 mmol) was dissolved in methanol (30 ml). To the resulting solution was added 2-chloro-6-methylphenyl isothiocyanate (841 mg, 4.58 mmol) at room temperature. After the resulting mixture was stirred for 5 days, mercuric oxide (yellow) (1.14 g, 4.36 mmol) was added thereto. The mixture was stirred at 70° C. for 23 hours. After cooling, the reaction mixture was filtered through Celite and washed with methanol. The filtrate was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform/ethyl acetate (30/1) eluate fractions, methyl (2-(2-chloro-6-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetate (1.45 g, 95%) was obtained as a red amorphous substance.

reactant | Methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate | 5.02 mmol, 1.0 g | NC1=C(C(=C(C=C1)CC(=O)OC)F)O | C9H10FNO3
reactant | 2-chloro-6-methylphenyl isothiocyanate | 4.58 mmol, 841 mg | ClC1=C(C(=CC=C1)C)N=C=S | C8H6ClNS
solvent | methanol | 30 ml | CO | CH4O
product | methyl (2-(2-chloro-6-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetate | 1.45 g, 95% | ClC1=C(C(=CC=C1)C)NC=1OC2=C(N1)C=CC(=C2F)CC(=O)OC | C17H14ClFN2O3
